US07148234B2
STEP 1, 3-{4-[(4,6-Dimethyl-3-nitro-2-pyridinyl)amino]phenyl}propanoic acid
To a solution of 2-chloro-4,6-dimethyl-3-nitropyridine (17.9 g, 96 mmol) and methyl 3-(4-aminophenyl)propanoate (19 g, 96 mmol) in DMSO (100 mL) was added N,N-diisopropylethylamine (26 g, 200 mmol), and the reaction mixture was heated at 140° C. overnight. The reaction mixture was partitioned between water (400 mL) and ethyl acetate/toluene (v/v, 2:1, 300 mL). The organic phase was separated and the aqueous phase was extracted with ethyl acetate/toluene (v/v, 2:1, 200 mL). The combined organic extracts were washed with brine (200 mL), dried (Na2SO4), and concentrated. To a solution of residual oil in methanol (100 mL) was added 2 N aqueous NaOH (150 mL, 300 mmol) and the resulting mixture was stirred at room temperature for 2 h. The volatile component was removed under reduced pressure and the residue was washed with ethyl acetate (200 mL). The aqueous phase was acidified with 2N hydrochloric acid (200 mL, 400 mmol) and extracted with ethyl acetate (3×200 mL). The extracts were washed with brine (200 mL), dried (Na2SO4), and concentrated to give 23.2 g (77%) of the title compound as pale brown solids.

reactant | 2-chloro-4,6-dimethyl-3-nitropyridine | 96 mmol, 17.9 g | ClC1=NC(=CC(=C1[N+](=O)[O-])C)C | C7H7ClN2O2
reactant | methyl 3-(4-aminophenyl)propanoate | 96 mmol, 19 g | NC1=CC=C(C=C1)CCC(=O)OC | C10H13NO2
reactant | N,N-diisopropylethylamine | 200 mmol, 26 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaOH | 300 mmol, 2 N, 150 mL | [OH-].[Na+]
reactant | hydrochloric acid | 400 mmol, 2N, 200 mL | Cl | ClH
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
solvent | methanol | 100 mL | CO | CH4O
product | 3-{4-[(4,6-Dimethyl-3-nitro-2-pyridinyl)amino]phenyl}propanoic acid | 23.2 g, 77% | CC1=C(C(=NC(=C1)C)NC1=CC=C(C=C1)CCC(=O)O)[N+](=O)[O-] | C16H17N3O4
